US04683244
Twenty grams of tetradecyloxy benzoic acid methyl ester and 2.75 g of sodium hydroxide were dissolved in 80 ml of ethanol. After the addition of 50 ml of water was heated for 2.5 hours to boiling temperature. The resulting suspension was concentrated by evaporation and the evaporation residue was dissolved in hot water. The solution then was acidified with dilute hydrochloric acid, filtered, washed with water and dried. 4-tetradecyloxybenzoic acid melting at 95° to 99° C. (clear at 135° C. was obtained in a yield of 18.2 g, corresponding to 95% of the theoretical.

reactant | tetradecyloxy benzoic acid methyl ester | Twenty grams | COC(C1=C(C=CC=C1)OCCCCCCCCCCCCCC)=O | C22H36O3
reactant | sodium hydroxide | 2.75 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 4-tetradecyloxybenzoic acid | C(CCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C21H34O3
